US08895745B2
e) 1-{3-[7-(2H-Tetrazol-5-yl)-imidazo[1,2-a]pyridin-3-yl]-phenyl}-3-(2,2,2-trifluoro-ethyl)-urea
1-[3-(7-Cyano-imidazo[1,2-a]pyridin-3-yl)-phenyl]-3-(2,2,2-trifluoro-ethyl)-urea (65 mg, 0.18 mmol), sodium azide (14 mg, 0.19 mmol) and ammonium chloride (11 mg, 0.20 mmol) were dissolved in DMF (2 ml) and heated at 90° C. for 18 h. The reaction mixture was cooled, the solvent removed in vacuo and the crude reaction mixture purified using reverse phase HPLC. This afforded the title compound as a white solid (14 mg). MS: [M+H]+ 403.

reactant | 1-[3-(7-Cyano-imidazo[1,2-a]pyridin-3-yl)-phenyl]-3-(2,2,2-trifluoro-ethyl)-urea | 0.18 mmol, 65 mg | C(#N)C1=CC=2N(C=C1)C(=CN2)C=2C=C(C=CC2)NC(=O)NCC(F)(F)F | C17H12F3N5O
reactant | sodium azide | 0.19 mmol, 14 mg | [N-]=[N+]=[N-].[Na+]
reactant | ammonium chloride | 0.20 mmol, 11 mg | [Cl-].[NH4+]
solvent | DMF | 2 ml | CN(C)C=O | C3H7NO
product | 1-{3-[7-(2H-Tetrazol-5-yl)-imidazo[1,2-a]pyridin-3-yl]-phenyl}-3-(2,2,2-trifluoro-ethyl)-urea | 14 mg | N=1NN=NC1C1=CC=2N(C=C1)C(=CN2)C=2C=C(C=CC2)NC(=O)NCC(F)(F)F | C17H13F3N8O
